US07612060B2
Step (v): Synthesis of 5-azido-2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazoline
To a solution of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-ol (2.0 g, 4.63 mmol) in 25 mL of toluene at −10° C. was added DPPA (1.2 mL, 5.56 mmol). To this stirred solution was then added DBU (0.83 mL, 5.56 mmol) dropwise while keeping the temperature below 0° C. After stirring at room temperature for 16 h, the reaction was evaporated to dryness and directly submitted to flash chomatography (SiO2, hexane/DCM=1:2) to afford the title compound as a white solid.

reactant | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-ol | 4.63 mmol, 2.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=NC=2CCCC(C2C=N1)O | C26H32N2O2Si
reactant | DPPA | 5.56 mmol, 1.2 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 5.56 mmol, 0.83 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-azido-2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazoline | N(=[N+]=[N-])C1C=2C=NC(=NC2CCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H31N5OSi
